US06673809B2
4-Azidomethyl-cyclopent-2-enylamine
N-[4-(azidomethyl)cyclopent-2-enyl](t-butoxy)-carboxamide (10 g, 42 mmol) was dissolved in TFA reagent (9.25 mL TFA, 0.25 mL anisole, 0.25 mL triisopropylsilane and 0.25 mL water)and DCM (25 mL), and stirred for 30 min at rt. The reaction mixture was concentrated and the residue filtered through SCX column, eluted with ammonia (2 M solution in methanol), and evaporated to yield the title compound (4.6 g, 80%).: ESMS: 139 (M+1)+. 1H NMR (CDCl3): δ 1.40-1.55 (m, 1H), 2.45-2.60 (m, 1H), 2.90-3.00 (m, 1H), 3.40 (d, 2H), 4.104.20 (m, 1H), 5.90 (s, 2H).

reactant | N-[4-(azidomethyl)cyclopent-2-enyl](t-butoxy)-carboxamide | 42 mmol, 10 g | N(=[N+]=[N-])CC1C=CC(C1)NC(=O)OC(C)(C)C | C11H18N4O2
solvent | TFA | 9.25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-Azidomethyl-cyclopent-2-enylamine | 4.6 g, 80% | N(=[N+]=[N-])CC1C=CC(C1)N | C6H10N4
